US03931143
B. 2-t-Butylazo-2-chloro-4-methylpentane
Into a 5 liter, 4-neck round bottom flask equipped with a low temperature thermometer, a chlorine inlet tube, a mechanical stirrer, and a gas exit tube protected from the atmosphere with a CaCl2 tube, was added 510 grams (3.0 moles) of methyl isobutyl ketone t-butylhydrazone, 303.6 grams (3.0 moles) of triethylamine and 2400 ml of pentane. The contents were cooled to -15°C with a dry ice-isopropanol bath. Then with rapid stirring 213 grams (3.0 moles) of chlorine were passed into the reaction mixture as fast as it was possible to control the temperature at 5°C or below. After all of the chlorine had been added the reaction temperature was adjusted to -5°C to 0°C and the reaction mixture filtered to remove the triethylamine hydrochloride. The triethylamine hydrochloride filter cake was washed with fresh pentane and the filtrate added to the original pentane solution.

reactant | methyl isobutyl ketone t-butylhydrazone | 3.0 moles, 510 grams | C(C)(C)(C)NN=C(C)CC(C)C | C10H22N2
reactant | triethylamine | 3.0 moles, 303.6 grams | C(C)N(CC)CC | C6H15N
reactant | chlorine | 3.0 moles, 213 grams | ClCl | Cl2
solvent | pentane | 2400 ml | CCCCC | C5H12
product | 2-t-Butylazo-2-chloro-4-methylpentane | C(C)(C)(C)N=NC(C)(CC(C)C)Cl | C10H21ClN2
